US04871746
A solution of 0.5 g, (0.8 mmol) of diethyl N-[N-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-ylmethyl)-N-formyl-4-aminomethylbenzoyl]-glutamate in 0.1N NaOH was stirred at 25° C. for 5 days. The reaction mixture was filtered and the filtrate rendered acidic (pH 4) with 0.5N hydrochloric acid. The solid which formed after 1 h at 0° C. was collected, washed with water, and dried over P2O5 to give 0.26 g (67% yield) of N-[N-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-ylmethyl)-N-formyl-4-aminomethylbenzoyl]-glutamic acid. An analytical sample was recrystallized from ethanol; mp 178° C. with gradually decomposition; 1H NMR (Me2SO d6) delta 1.75-2.23 (m, 5H), 2.2-2.42 (m, 3H), 2.65.varies.2.83 (m, 1H), 3.0-3.17 (m, 2H), 4.36-4.40 (m, 1H), 4.44-4.60 (m, 2 H), 5.95 (s, 2H), 6.29 (s, 1H), 7.28-7.36 (m, 2H, AA'BB'), 7.69-7.92 (m, 2H, AA'BB'), 8.10 and 8.36 (s, 1H), 8.57 (t, 1H, J=7.78 Hz), 9.8 (br s, 1H). Anal. Calcd for C22H26N6O7 : C, 54.32; H, 5.39; N, 17.28. Found: C, 54.67; H, 5.46; N, 17.02.

reactant | diethyl N-[N-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-ylmethyl)-N-formyl-4-aminomethylbenzoyl]-glutamate | 0.8 mmol | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CN(C=O)CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C31H42N6O8
solvent | NaOH | 0.1N | [OH-].[Na+]
product | N-[N-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-ylmethyl)-N-formyl-4-aminomethylbenzoyl]-glutamic acid | 0.26 g, 67% yield | NC=1N=C(C2=C(N1)NCC(C2)CN(C=O)CC2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2)O | C22H26N6O7
